US07846960B2
6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-ylamine
To an ambient temperature solution of 6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-3-nitro-pyridine (2.73 g, 6.25 mmol) in EtOH/THF (100/100 mL) is added platinum (II) oxide (142 mg, 0.625 mmol, 10 mol %). The reaction is placed under an atmosphere of hydrogen gas. After 3 h, the reaction is filtered through diatomaceous earth, concentrated, and chromatographed (0% to 30% EtOAc/Hex) to yield the title compound (2.15 g, 85%). 1H NMR (400 MHz, CDCl3) δ 7.60 (s, 1H), 7.53 (dd, 1H, J=7.9, 1.8 Hz), 7.46-7.41 (m, 1H), 7.39-7.31 (m, 2H), 7.08 (d, 1H, J=8.8 Hz), 6.33 (d, 1H, J=8.4 Hz), 5.17 (s, 2H), 3.06 (sept, 1H, J=7.0 Hz), 2.32 (s, 3H), 1.27 (d, 6H, J=7.0 Hz).

reactant | 6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-3-nitro-pyridine | 6.25 mmol, 2.73 g | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)[N+](=O)[O-] | C20H19F3N4O4
solvent | EtOH THF | 100 mL | CCO.C1CCOC1
catalyst | platinum (II) oxide | 0.625 mmol, 142 mg | [Pt]=O
product | 6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-ylamine | 2.15 g, 85% | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)N | C20H21F3N4O2
